SFP reference filter sensitivity_low_C_high_L
Vfeed feed 0 DC 3.3 AC 1
Rind feed lx 0.07332446
Lfilter lx out 5.64e-06
Cbypass out 0 100n
Rcap out cpos 0.035
Cbulk cpos damp 1.1e-05
Rdamp damp 0 0.4472
Rload out 0 1e9
.end
